US08703768B2
Step 5: 3-(Pyrimidin-5-ylamino)-6-(2,2,2-trifluoro-ethoxy)-pyrazine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide
The product was obtained starting from 3-(pyrimidin-5-ylamino)-6-(2,2,2-trifluoro-ethoxy)-pyrazine-2-carboxylic acid (114 mg, 0.36 mmol) and 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide (67 mg, 0.43 mmol) according to the method described in example 64, step 6 as yellow solid (92 mg, 56%).

reactant | 3-(pyrimidin-5-ylamino)-6-(2,2,2-trifluoro-ethoxy)-pyrazine-2-carboxylic acid | 0.36 mmol, 114 mg | N1=CN=CC(=C1)NC=1C(=NC(=CN1)OCC(F)(F)F)C(=O)O | C11H8F3N5O3
reactant | 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide | 0.43 mmol, 67 mg | CNC(=O)C=1N(N=CC1N)C | C6H10N4O
product | 3-(Pyrimidin-5-ylamino)-6-(2,2,2-trifluoro-ethoxy)-pyrazine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)OCC(F)(F)F | C17H16F3N9O3
